datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[O:1])([H:2])[H:3].[C:4]([C:5]([C:6]([H:13])([H:14])[H:15])([C:7]([H:16])([H:17])[H:18])[O:8][O:9])([H:10])([H:11])[H:12]>>[C:0](=[O:1])[H:3].[H:2][O:9][O:8][C:5]([C:4]([H:10])([H:11])[H:12])([C:6]([H:13])([H:14])[H:15])[C:7]([H:16])([H:17])[H:18],37.656
[C:0]([O:1][C:2]([C:3]([H:8])([H:9])[H:10])=[O:4])([H:5])([H:6])[H:7].[C:11](=[C:12]([H:14])[H:15])[H:13]>>[C:0]([O:1][C:2]([C:3]([H:8])([H:9])[H:10])=[O:4])([H:6])[H:7].[H:5][C:11](=[C:12]([H:14])[H:15])[H:13],43.5136
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:22])([H:23])[H:24])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10].[O:25][H:26]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:22])([H:23])[H:24])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])[H:11])([H:9])[H:10].[H:8][O:25][H:26],0.0
[C:0](#[C:1][C:2]=[S:3])[H:4].[C:5]([C:6]([H:10])([H:11])[H:12])([H:7])([H:8])[H:9]>>[C:0](#[C:1][C:2](=[S:3])[H:7])[H:4].[C:5]([C:6]([H:10])([H:11])[H:12])([H:8])[H:9],88.7008
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12]([C:13](=[C:14]([C:15]([H:21])([H:22])[H:23])[H:20])[H:19])([H:16])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:13]([C:12]([H:16])([H:17])[H:18])([C:14]([C:15]([H:21])([H:22])[H:23])[H:20])[H:19])[H:5],39.2041
[C:0]([C:1](=[C:2]([c:3]1[c:4]([H:19])[c:5]([H:20])[c:6]([H:21])[c:7]([H:22])[c:8]1[H:23])[H:18])[c:9]1[c:10]([H:24])[c:11]([H:25])[c:12]([H:26])[c:13]([H:27])[c:14]1[H:28])([H:15])([H:16])[H:17].[C:29]([C:30]([C:31]([H:41])([H:42])[H:43])[c:32]1[c:33]([H:44])[c:34]([H:45])[c:35]([H:46])[c:36]([H:47])[c:37]1[H:48])([H:38])([H:39])[H:40]>>[C:0]([C:1]([C:2]([c:3]1[c:4]([H:19])[c:5]([H:20])[c:6]([H:21])[c:7]([H:22])[c:8]1[H:23])([H:18])[C:30]([C:29]([H:38])([H:39])[H:40])([C:31]([H:41])([H:42])[H:43])[c:32]1[c:33]([H:44])[c:34]([H:45])[c:35]([H:46])[c:36]([H:47])[c:37]1[H:48])[c:9]1[c:10]([H:24])[c:11]([H:25])[c:12]([H:26])[c:13]([H:27])[c:14]1[H:28])([H:15])([H:16])[H:17],40.8358
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[H:6])[H:5].[c:13]1[c:14]([H:19])[c:15]([H:20])[c:16]([H:21])[c:17]([H:22])[c:18]1[H:23]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:5].[H:6][c:13]1[c:14]([H:19])[c:15]([H:20])[c:16]([H:21])[c:17]([H:22])[c:18]1[H:23],-20.92
[C:0]1([H:3])([H:4])[S:1][S:2]1.[C:5]([C:6]([H:9])([H:10])[H:11])([H:7])[H:8]>>[C:0]([S:1][S:2][C:5]([C:6]([H:9])([H:10])[H:11])([H:7])[H:8])([H:3])[H:4],30.45952
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:13])([H:14])[H:15])[c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:12])[H:11].[C:21](=[C:22]([C:23]([C:24]([H:30])([H:31])[H:32])[C:25](=[C:26]([H:34])[H:35])[H:33])[H:29])([H:27])[H:28]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:13])([H:14])[H:15])[c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])([H:12])[C:23]([C:22](=[C:21]([H:27])[H:28])[H:29])([C:24]([H:30])([H:31])[H:32])[C:25](=[C:26]([H:34])[H:35])[H:33])[H:11],65.3959
[C:0](=[C:1]([C:2]([H:11])([H:12])[H:13])[c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:9])[H:10].[C:19]([C:20]([C:21]([H:26])([H:27])[H:28])[H:25])([H:22])([H:23])[H:24]>>[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])[c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:9])([H:10])[C:20]([C:19]([H:22])([H:23])[H:24])([C:21]([H:26])([H:27])[H:28])[H:25],9.8324
[C:0](#[C:1][C:2]([S:3][H:7])([H:5])[H:6])[H:4].[C:8]([H:9])([H:10])[H:11]>>[C:0](#[C:1][C:2]([S:3][C:8]([H:9])([H:10])[H:11])([H:5])[H:6])[H:4].[H:7],64.0152
[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])=[C:4]([C:5]([H:17])([H:18])[H:19])[C:6]([C:7]([C:8]([C:9]([C:10]([H:27])([H:28])[H:29])[H:26])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])[H:13])([H:11])[H:12]>>[C:0](=[C:1]([C:2]1([C:3]([H:14])([H:15])[H:16])[C:4]([C:5]([H:17])([H:18])[H:19])[C:6]([H:20])([H:21])[C:7]([H:22])([H:23])[C:8]([H:24])([H:25])[C:9]1([C:10]([H:27])([H:28])[H:29])[H:26])[H:13])([H:11])[H:12],53.0113
[C:0](#[C:1][C:2](=[S:3])[H:5])[H:4].[C:6](=[C:7]([C:8]([C:9]([H:14])([H:15])[H:16])[S:10][H:17])[H:13])([H:11])[H:12]>>[C:0](#[C:1][C:2]=[S:3])[H:4].[H:5][C:8]([C:7](=[C:6]([H:11])[H:12])[H:13])([C:9]([H:14])([H:15])[H:16])[S:10][H:17],184.807
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8]([C:9]([S:10][H:20])[c:11]1[c:12]([H:21])[c:13]([H:22])[c:14]([H:23])[c:15]([H:24])[c:16]1[H:25])([H:17])([H:18])[H:19]>>[C:0](#[C:1][C:2]=[C:3]([H:6])[H:7])[H:4].[H:5][C:9]([C:8]([H:17])([H:18])[H:19])([S:10][H:20])[c:11]1[c:12]([H:21])[c:13]([H:22])[c:14]([H:23])[c:15]([H:24])[c:16]1[H:25],98.324
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([O:3][H:12])[C:4]([O:5][O:6][H:15])([H:13])[H:14])([H:7])[H:8].[O:16][O:17]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([O:3][H:12])[C:4]([O:5][O:6][H:15])([H:13])[H:14])([H:7])([H:8])[O:16][O:17],0.8313608
